US04311860
Odorant composition A starting from α-ionone
Identification has been carried out by mass spectrum as stated above. The composition can be characterized by the presence of compounds 1 [2-(4-hydroxy-2,6,6-trimethylcyclohex-2-en-1-yl)ethanol] and 2 [2-(4-keto-2,6,6-trimethylcyclohex-2-en-1-yl)ethanol] and especially 3 [1,5,5-trimethyl-9-oxa-bicyclo[4.3.0]non-2-ene] and 4 [1,5,5-trimethyl-9-oxa-bicyclo[4.3.0]nonan-3-one]. (See Table A).

reactant | 2-(4-keto-2,6,6-trimethylcyclohex-2-en-1-yl)ethanol | O=C1C=C(C(C(C1)(C)C)CCO)C | C11H18O2
reactant | 1,5,5-trimethyl-9-oxa-bicyclo[4.3.0]non-2-ene | CC12C=CCC(C2CCO1)(C)C | C11H18O
reactant | 1,5,5-trimethyl-9-oxa-bicyclo[4.3.0]nonan-3-one | CC12CC(CC(C2CCO1)(C)C)=O | C11H18O2
product | α-ionone | CC1=CCCC(C1/C=C/C(=O)C)(C)C | C13H20O
